US07550451B2
781 mg of 4-(17β-hydroxy-17α-methyl-3-oxoestra-4,9-dien-11β-yl)benzaldehyde is dissolved in 25 ml of tetrahydrofuran and mixed with 356 mg of N-bromosuccinimide. The mixture is stirred for 2 hours at room temperature, then poured into 200 ml of ice water. The precipitate is filtered off, washed neutral and dried. After purification by means of preparative layer chromatography, 475 mg of 4-(4′-bromo-17β-hydroxy-17α-methyl-3-oxoestra-4,9-dien-11β-yl)benzaldehyde is obtained as a foam, which is incorporated directly into the oximization analogously to Example 1 with hydroxylammonium hydrochloride in pyridine.

reactant | 4-(17β-hydroxy-17α-methyl-3-oxoestra-4,9-dien-11β-yl)benzaldehyde | 781 mg | O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CCC3=C1[C@H](C2)C2=CC=C(C=O)C=C2)=O)C | C26H30O3
reactant | N-bromosuccinimide | 356 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-(4′-bromo-17β-hydroxy-17α-methyl-3-oxoestra-4,9-dien-11β-yl)benzaldehyde | 475 mg | BrC1=C2CC[C@H]3[C@@H]4CC[C@]([C@@]4(C)C[C@@H](C3=C2CCC1=O)C1=CC=C(C=O)C=C1)(C)O | C26H29BrO3
